US06635640B2
Palladium catalyst Pd(PPh3)4 (142 mg, 0.12 mmol) and freshly prepared aqueous sodium hydroxide (493 mg, 12.33 mmol, in 6 mL of water) were added to a mixture of 4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1H-indole (1 g, 4.11 mmol) and 5-bromopyrimidine (784 mg, 4.93 mmol) in THF (20 mL). The system was degassed and then purged three times with nitrogen. The mixture was stirred under nitrogen at 70° C. in an oil bath for 4 hours. It was then cooled to room temperature and ethyl acetate (300 mL) was added. The organic layer was isolated, washed by brine, dried over anhydrous Na2SO4 and concentrated. The residue was triturated with dichloromethane to give 570 mg (71%) of 4-pyrimidin-5-yl-1H-indole as a pale green solid.

reactant | sodium hydroxide | 12.33 mmol, 6 mL, 493 mg | [OH-].[Na+]
reactant | 4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1H-indole | 4.11 mmol, 1 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | 5-bromopyrimidine | 4.93 mmol, 784 mg | BrC=1C=NC=NC1 | C4H3BrN2
catalyst | Palladium | 0.12 mmol, 142 mg | [Pd] | Pd
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-pyrimidin-5-yl-1H-indole | 570 mg, 71% | N1=CN=CC(=C1)C1=C2C=CNC2=CC=C1 | C12H9N3
